US08557983B2
ethyl 2-(4-amino-2-chlorophenoxy)-4-fluorobenzoate
To a solution of ethyl 2,4-difluorobenzoate (6.48 g) and 4-amino-2-chlorophenol (5.0 g) in diglyme (40 mL) was added K3PO4 (7.39 g). The mixture was stirred at 110° C. overnight. The mixture was diluted with ethyl acetate (300 mL) and washed with water, brine and dried over Na2SO4. The mixture was filtered, and the solvent was evaporated and the residue was loaded on a column and eluted with 10% ethyl acetate in hexane to give the product.

reactant | ethyl 2,4-difluorobenzoate | 6.48 g | FC1=C(C(=O)OCC)C=CC(=C1)F | C9H8F2O2
reactant | 4-amino-2-chlorophenol | 5.0 g | NC1=CC(=C(C=C1)O)Cl | C6H6ClNO
reactant | K3PO4 | 7.39 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | diglyme | 40 mL | COCCOCCOC | C6H14O3
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | ethyl 2-(4-amino-2-chlorophenoxy)-4-fluorobenzoate | NC1=CC(=C(OC2=C(C(=O)OCC)C=CC(=C2)F)C=C1)Cl | C15H13ClFNO3
